### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 1]
```diff
@@ -638,9 +638,8 @@ section CommSemiring
 
 variable [CommSemiring R] {a p : R[X]}
 
-theorem eq_zero_of_mul_eq_zero_of_smul (P : R[X]) (h : ∀ r : R, r • P = 0 → r = 0) :
-    ∀ (Q : R[X]), P * Q = 0 → Q = 0 := by
-  intro Q hQ
+theorem eq_zero_of_mul_eq_zero_of_smul (P : R[X]) (h : ∀ r : R, r • P = 0 → r = 0) (Q : R[X])
+    (hQ : P * Q = 0) : Q = 0 := by
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:642]: I would put `(Q)` and `(hQ)` on the same line. Optional.

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 2]
```diff
@@ -390,22 +389,19 @@ theorem comp_id (p : FormalMultilinearSeries 𝕜 E F) (x : E) : p.comp (id 𝕜
...
   · simp
 
 @[simp]
 theorem id_comp (p : FormalMultilinearSeries 𝕜 E F) (v0 : Fin 0 → E) :
     (id 𝕜 F (p 0 v0)).comp p = p := by
   ext1 n
-  by_cases hn : n = 0
-  · rw [hn]
-    ext v
+  obtain rfl|n_pos := n.eq_zero_or_pos
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Composition.lean:399]: Space around the vertical bar? (I believe mathlib style prefers so.)

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean [hunk 3]
```diff
@@ -96,15 +96,7 @@ derivative, differentiability, higher derivative, `C^n`, multilinear, Taylor ser
...
-open NNReal Topology Filter
-
-/-
-Porting note: These lines are not required in Mathlib4.
-attribute [local instance 1001]
-  NormedAddCommGroup.toAddCommGroup AddCommGroup.toAddCommMonoid
--/
-
-open Set Fin Filter Function
+open NNReal Topology Filter Set Fin Function
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Defs.lean:99]: With two adjacent `open` lines, my default guess is that one of these should have been `open scoped` at the time of port. Can you check which of these imports are fine as `open scoped`, and demote them accordingly? Thanks!

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 4]
```diff
@@ -355,11 +355,11 @@ theorem one_eq_range : (1 : Submodule R A) = LinearMap.range (Algebra.linearMap
     LinearMap.toSpanSingleton_eq_algebra_linearMap]
 
 theorem algebraMap_mem (r : R) : algebraMap R A r ∈ (1 : Submodule R A) := by
-  rw [one_eq_range]; exact LinearMap.mem_range_self _ _
+  simp [one_eq_range]
```
Comment (grunweg) [inline Mathlib/Algebra/Algebra/Operations.lean:358]: Did you manually check if these simp's are quite slow? (Benchmarking also works, if you prefer.)

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 4 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Algebra/Operations.lean:358]: On the order on 1000 heartbeats, half of that when squeezed. Not worth it, IMO.

**Comment by kim-em** [comment]
bors merge
